US07084123B2
To a solution of 1-acetyl-4-[(4-ethylthiophenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-methylpyrazole (0.03 g) in 2,4,6-trimethylpyridine (0.5 mL) was added ethyl chloroformate (0.012 mL), and the mixture was stirred at room temperature overnight. To the reaction mixture was added 10% aqueous citric acid solution (5 mL), and the resulting mixture was stirred at room temperature overnight. The resulting precipitatse were collected by filtration and washed with 10% aqueous citric acid solution and water to give 1-acetyl-3-(6-O-ethoxycarbonyl-β-D-glucopyranosyloxy)-4-[(4-ethylthiophenyl)methyl]-5-methylpyrazole (0.020 g).

reactant | 1-acetyl-4-[(4-ethylthiophenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-methylpyrazole | 0.03 g | C(C)(=O)N1N=C(C(=C1C)CC1=CC=C(C=C1)SCC)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C21H28N2O7S
reactant | ethyl chloroformate | 0.012 mL | ClC(=O)OCC | C3H5ClO2
reactant | citric acid | 5 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | 2,4,6-trimethylpyridine | 0.5 mL | CC1=NC(=CC(=C1)C)C | C8H11N
product | 1-acetyl-3-(6-O-ethoxycarbonyl-β-D-glucopyranosyloxy)-4-[(4-ethylthiophenyl)methyl]-5-methylpyrazole | 0.020 g | C(C)(=O)N1N=C(C(=C1C)CC1=CC=C(C=C1)SCC)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)COC(=O)OCC | C24H32N2O9S
